US04672116
2-Amino-5,6-dimethoxybenzonitrile
Iron powder (8.70 g, 156 mmol) was added to a suspension of (9.30 g, 44.5 mmol) of 2-nitro-5,6-dimethoxybenzonitrile in an acetic acid (30 ml) and 2-propanol (30 ml) mixture. The mildly exothermic reaction which resulted was allowed to reach 100° and a gentle reflux was maintained for 1 hour with application of heat. Charcoal (10 g) was added, the reaction mixture filtered, and the solid residue obtained was washed with hot 2-propanol (100 ml). The combined filtrates were evaporated to an oily residue which was redissolved in CHCl3 and washed with 5% aqueous NaHCO3 and saturated aqueous NaCl solution. The CHCl3 phase was dried with Na2SO4 and evaporated in vacuo to yield 7.0 g (88.4%) of the target compound as an oil.

reactant | 2-nitro-5,6-dimethoxybenzonitrile | 44.5 mmol, 9.30 g | [N+](=O)([O-])C1=C(C#N)C(=C(C=C1)OC)OC | C9H8N2O4
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | Charcoal | 10 g | C | CH4
catalyst | Iron | 156 mmol, 8.70 g | [Fe] | Fe
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
product | 2-Amino-5,6-dimethoxybenzonitrile | 7.0 g, 88.4% | NC1=C(C#N)C(=C(C=C1)OC)OC | C9H10N2O2
